US06002008
4-(2-Hydroxy-4-methyl-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 286, 248.7 mg (1 mmol) of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile in 10 mL of 2-ethoxyethanol and in the presence of 115.6 mg (1 mmol) of pyridine hydrochloride was reacted with 147.8 mg (1.2 mmol) of 6-amino-m-cresol to give 287.5 mg (85.8%) of the product as a light brown solid, m.p.>250° C., mass (electrospray, m/e): M+H 335.9.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 1 mmol, 248.7 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | pyridine hydrochloride | 1 mmol, 115.6 mg | Cl.N1=CC=CC=C1
reactant | 6-amino-m-cresol | 1.2 mmol, 147.8 mg | NC=1C=CC(=CC1O)C | C7H9NO
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | 4-(2-Hydroxy-4-methyl-phenylamino)-6,7-dimethoxy-quinoline-3-carbonitrile | 287.5 mg, 85.8% | OC1=C(C=CC(=C1)C)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C19H17N3O3
